US07919504B2
rac-(cis)-tert-Butyl 2-(hydroxymethyl)-3-phenylpyrrolidine-1-carboxylate.
To a stirred mixture of rac-(cis)-1-(tert-butoxycarbonyl)-3-phenylpyrrolidine-2-carboxylic acid (0.77 g, 2.6 mmol) (prepared as described by Damour et al. Synlett 1999, 2, 189-192) in THF (10.00 mL, 122 mmol) was added BH3●THF (9.3 mL, 1.0 M in THF, 9.3 mmol) slowly at 0° C. The resulting mixture was stirred at room temperature overnight. The mixture was then cooled to 0° C., and the resulting mixture was quenched with MeOH, concentrated, and the remaining residue was diluted with 1.0 N aqueous NaOH (10 mL), and extracted with EtOAc (10 mL×3). The organic layers were washed with brine, dried over Na2SO4, and concentrated to give a residue which was purified with flash column chromatography (pure hexane →30% EtOAc in hexanes) to obtain the desired product as a colorless sticky syrup, which solidified upon standing. LCMS (API-ES) m/z (%): 278.4 (100%, M+H); 1H NMR (400 MHz, CDCl3) δ ppm (mixture of rotatomers) 1.50 (s, 9H) 2.10-2.17 (m, 2H), 3.33 (d, J=4.70 Hz, 2H), 3.42-3.51 (m, 1H), 3.60-3.67 (m, 2H), 4.26-4.33 (m, 1H) 7.23 (d, J=11.74 Hz, 2H), 7.30-7.39 (m, 3H).

reactant | rac-(cis)-1-(tert-butoxycarbonyl)-3-phenylpyrrolidine-2-carboxylic acid | 2.6 mmol, 0.77 g | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CC1)C1=CC=CC=C1)C(=O)O | C16H21NO4
reactant | THF | 122 mmol, 10.00 mL | C1CCOC1 | C4H8O
reactant | THF | 9.3 mmol, 1.0 M, 9.3 mL | C1CCOC1 | C4H8O
product | rac-(cis)-tert-Butyl 2-(hydroxymethyl)-3-phenylpyrrolidine-1-carboxylate | OC[C@@H]1N(CC[C@@H]1C1=CC=CC=C1)C(=O)OC(C)(C)C | C16H23NO3
